US09414589B2
A solution of 2-(4-chlorophenyl)cyclobutanone (1.122 g, 6.09 mmol), hydroxylamine hydrochloride (3.541 g. 8.2 eq.) and 36 ml of 5% NaOH in 30 ml EtOH was heated at reflux for 2 h. The solution was cooled, adjusted to pH 6, and extracted with CHCl3. The organic extract was washed with brine and dried. Filtration and concentration yielded 2-(4-chlorophenyl)cyclobutanone oxime as an oil. 1 g (84%)

reactant | 2-(4-chlorophenyl)cyclobutanone | 6.09 mmol, 1.122 g | ClC1=CC=C(C=C1)C1C(CC1)=O | C10H9ClO
reactant | hydroxylamine hydrochloride | 3.541 g, 8.2 eq. | Cl.NO
reactant | NaOH | 36 ml | [OH-].[Na+]
solvent | EtOH | 30 ml | CCO | C2H6O
product | 2-(4-chlorophenyl)cyclobutanone oxime | ClC1=CC=C(C=C1)C1C(CC1)=NO | C10H10ClNO
